US05629295
(3β,5α,12β,25R)spirostan-3,12-diol
Using the procedure described in J. Am. Chem. Soc., 1954, 76, 4013, (3β,5α,25R)-spirostan-3-ol-12-one was reduced with lithium aluminum hydride in ether to give a mixture of C-12 alcohols from which the title compound was isolated.

reactant | (3β,5α,25R)-spirostan-3-ol-12-one | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4CC([C@]23C)=O)O)O[C@]12CC[C@@H](C)CO2 | C27H42O4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | (3β,5α,12β,25R)spirostan-3,12-diol | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4C[C@H]([C@]23C)O)O)O[C@]12CC[C@@H](C)CO2 | C27H44O4
